US04735940
(aca) Method A: 17.4 g of methyl 3-mercapto-thiophene-2-carboxylate were dissolved in 350 ml of toluene under an inert gas atmosphere, whereupon the solution was treated with 20.5 g of 2-aminoethyl bromide hydrobromide and then with 100 ml of 3N sodium methylate solution in methanol. The mixture was stirred at room temperature for 30 minutes and thereafter heated under reflux until the reaction finished. The mixture was evaporated in vacuo, the residue was taken up in 300 ml of water, acidified with 2N hydrochloric acid and the crystals were removed by filtration. By recrystallization from chloroform there was obtained 3,4-dihydro-thieno[2,3-f][1,4]thiazepin-5-(2H)-one as white crystals of m.p. 186°-188°.

reactant | methyl 3-mercapto-thiophene-2-carboxylate | 17.4 g | SC1=C(SC=C1)C(=O)OC | C6H6O2S2
reactant | 2-aminoethyl bromide hydrobromide | 20.5 g | Br.NCCBr
reactant | sodium methylate | 3N, 100 ml | C[O-].[Na+]
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 3,4-dihydro-thieno[2,3-f][1,4]thiazepin-5-(2H)-one | S1CCNC(C2=C1C=CS2)=O | C7H7NOS2
